US05650422
By the methods of parts D and E of Example 45 debenzylation of 2-benzyl-4-ethoxy-7-hydroxysaccharin (part B of Example 50) with ammonium formate and palladium on carbon in methanol gave 4-ethoxy-7-hydroxysaccharin ammonium salt, phenylthiomethylation of which with chloromethyl phenyl sulfide in dimethylformamide gave 2-phenylthiomethyl-4-ethoxy-7-hydroxysaccharin, reaction of which with sulfuryl chloride in dichloromethane gave 2-chloromethyl-4-ethoxy-7-hydroxysaccharin.

reactant | 2-phenylthiomethyl-4-ethoxy-7-hydroxysaccharin | C1(=CC=CC=C1)SCN1S(=O)(=O)C2=C(C=CC(=C2C1=O)OCC)O | C16H15NO5S2
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-chloromethyl-4-ethoxy-7-hydroxysaccharin | ClCN1S(=O)(=O)C2=C(C=CC(=C2C1=O)OCC)O | C10H10ClNO5S
